US09376422B2
To stirred solution of methyl 2,5-dichloro-3-nitrobenzoate (3.3 g, 13.1 mmol) in ethanol (20 mL) was added ammonium chloride (3.5 g, 64.81 mmol) dissolved in water (20 mL) and iron powder (7 g, 82.35 mmol). The reaction mixture was heated at 80° C. for 3 h. On completion, water was added to the reaction mixture and the solids removed by filtration through celite. The filtrate was extracted with ethyl acetate. The combined organic layers were washed with water, dried, and concentrated under reduced pressure to give methyl 3-amino-2,5-dichlorobenzoate (2.5 g, 66%).

reactant | methyl 2,5-dichloro-3-nitrobenzoate | 13.1 mmol, 3.3 g | ClC1=C(C(=O)OC)C=C(C=C1[N+](=O)[O-])Cl | C8H5Cl2NO4
reactant | ammonium chloride | 64.81 mmol, 3.5 g | [Cl-].[NH4+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | water | 20 mL | O | H2O
catalyst | iron | 82.35 mmol, 7 g | [Fe] | Fe
product | methyl 3-amino-2,5-dichlorobenzoate | 2.5 g, 66% | NC=1C(=C(C(=O)OC)C=C(C1)Cl)Cl | C8H7Cl2NO2
